US06982348B2
2) 4-(difluoromethyl)benzyl alcohol
To a suspension of lithium aluminum hydride (2.86 g, 75.3 mmol) in tetrahydrofuran (50 ml) was dropwise added a solution of methyl 4-(difluoromethyl)benzoate (9.341 g, 50.18 mmol) in tetrahydrofuran (50 ml) under ice-cooling and the mixture was stirred at room temperature for 1 hr. The reaction solution was ice-cooled and water (3 ml), 15% aqueous sodium hydroxide solution (3 ml) and water (8 ml) were dropwise added successively to decompose excess lithium aluminum hydride. The mixture was stirred as it was at room temperature for 2 hrs. The resulting precipitate was removed by filtration and the precipitate was washed with ethyl acetate. The solvent of the collected filtrate was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane/ethyl acetate=3/1-1/1) to give the objective-substance.

reactant | lithium aluminum hydride | 75.3 mmol, 2.86 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | methyl 4-(difluoromethyl)benzoate | 50.18 mmol, 9.341 g | FC(C1=CC=C(C(=O)OC)C=C1)F | C9H8F2O2
reactant | water | 3 ml | O | H2O
reactant | sodium hydroxide | 3 ml | [OH-].[Na+]
reactant | water | 8 ml | O | H2O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 4-(difluoromethyl)benzyl alcohol | FC(C1=CC=C(CO)C=C1)F | C8H8F2O
